US06936716B1
N-phenyl-1,2-phenylenediamine (3.68 g, 20 mmol) and 40 ml of dichloromethane were charged in a 250 ml round bottle, 5 ml of triethylamine was then added, and the mixture was cooled to 0° C. 2-Fluoro-benzoyl chloride (3.16 g, 20 mmol) was dissolved in 40 ml of dichloromethane and then slowly added to the 250 ml round bottle. The reaction was conducted under a nitrogen atmosphere for 6 hours. After the reaction was complete, ether was added to form precipitation. The solid product was collected by filtration, washed with ether several times, and heated under reduced pressure to form 2-(2-fluoro-phenyl)-1-phenyl-1H-benzoimidazole (yield=4.32 g, 75%).

reactant | N-phenyl-1,2-phenylenediamine | 20 mmol, 3.68 g | C1(=CC=CC=C1)NC1=C(C=CC=C1)N | C12H12N2
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | 2-Fluoro-benzoyl chloride | 20 mmol, 3.16 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-(2-fluoro-phenyl)-1-phenyl-1H-benzoimidazole | yield=4.32 g, 75% | FC1=C(C=CC=C1)C1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C19H13FN2
